US06107329
(S)-2-Amino-3-(4-hydroxy-phenyl)-1-(4-hydroxy-Piperidin-1-yl)-propan-1-one hydrochloride
(S)-[1-(4-Hydroxy-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (450 mg, 1.2 mmol) was dissolved in 4M HCl-dioxane (2 mL) at 0° C. The mixture was stirred at 25° C. for 1 hour, concentrated and the residue triturated with ether. Yield, 400 mg, 107%; MS 265 (MH+, 100%).

reactant | (S)-[1-(4-Hydroxy-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 1.2 mmol, 450 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)O)=O | C19H28N2O5
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
product | (S)-2-Amino-3-(4-hydroxy-phenyl)-1-(4-hydroxy-Piperidin-1-yl)-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)O | InChI=1S/C14H20N2O3.ClH/c15-13(9-10-1-3-11(17)4-2-10)14(19)16-7-5-12(18)6-8-16;/h1-4,12-13,17-18H,5-9,15H2;1H/t13-;/m0./s1
